US07659401B2
Step 3: 5-Bromo-2-methyl-thiazole-4-carboxylic acid amide
5-Bromo-2-methyl-thiazole-4-carboxylic acid (14.4 g, 64.8 mmol) was dissolved in 100 ml DMF and CDI (11.6 g, 71.3 mmol) was added. The solution was stirred for 2 hrs at 60° C., cooled and NH4OH (150 ml, 973 mmol) was added. The reaction mixture was stirred over night at room temperature and extracted two times with ethyl acetate and water. The organic extracts were washed four times with water, dried with sodium sulfate, filtered and evaporated. The crude product (11.3 g, 79%) [MS: m/e=222.8 (M+H+)] was used without any further purification for the next step.

reactant | 5-Bromo-2-methyl-thiazole-4-carboxylic acid | 64.8 mmol, 14.4 g | BrC1=C(N=C(S1)C)C(=O)O | C5H4BrNO2S
reactant | CDI | 71.3 mmol, 11.6 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 973 mmol, 150 ml | [NH4+].[OH-]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-2-methyl-thiazole-4-carboxylic acid amide | BrC1=C(N=C(S1)C)C(=O)N | C5H5BrN2OS
